US09422311B2
To a solution of tert-butyl(3-(4-((4-((4-((2-(chloromethyl)allyl)oxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamido)-2,2-dimethylpropyl)carbamate (1 g) in DCM (10 mL) was added TFA (3 mL). The mixture was stirred at room temperature for 3 hours. All the solvents were removed under vacuum. The residue was diluted with EtOAc (200 mL), washed with 10% of NaHCO3 (50 mL), brine (50 mL), dried over MgSO4 and concentrated to give N-(3-amino-2,2-dimethylpropyl)-4-(4-(4-(2-(chloromethyl)allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamide (0.8 g).

reactant | tert-butyl(3-(4-((4-((4-((2-(chloromethyl)allyl)oxy)benzyl)amino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-yl)amino)benzamido)-2,2-dimethylpropyl)carbamate | 1 g | C(C)(C)(C)OC(NCC(CNC(C1=CC=C(C=C1)NC1=NC(=NC(=N1)NCC1=CC=C(C=C1)OCC(=C)CCl)OCC(F)(F)F)=O)(C)C)=O | C33H41ClF3N7O5
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(3-amino-2,2-dimethylpropyl)-4-(4-(4-(2-(chloromethyl)allyloxy)benzylamino)-6-(2,2,2-trifluoroethoxy)-1,3,5-triazin-2-ylamino)benzamide | 0.8 g | NCC(CNC(C1=CC=C(C=C1)NC1=NC(=NC(=N1)NCC1=CC=C(C=C1)OCC(=C)CCl)OCC(F)(F)F)=O)(C)C | C28H33ClF3N7O3
